US09370522B2
Step 2. Benzo[d][1,3]dioxol-5-ylboronic acid
Butyl lithium (BuLi) (5.6 mL, 1.40 equiv) was added dropwise to a solution of 5-bromobenzo[d][1,3]dioxole (2 g, 9.95 mmol, 1.00 equiv) and triisopropyl borate (1.96 g, 14.00 mmol, 1.40 equiv) in THF (20 mL) at −78° C. in a 100-mL 3-necked round-bottom flask under an inert atmosphere of nitrogen. The mixture was stirred at room temperature for 4 hr, quenched with water (10 mL), and acidified with H2SO4 (4.9 g, 50.00 mmol, 5.00 equiv). The resulting solution was allowed to react, with stirring, overnight while the temperature was maintained at reflux. The solution was extracted with 3×50 mL of ethyl acetate and the organic layers combined, dried over anhydrous sodium sulfate and concentrated under vacuum. The resulting solid material was washed with 3×3 mL of ethyl acetate. This resulted in 0.5 g (30%) of benzo[d][1,3]dioxol-5-ylboronic acid as a white solid.

reactant | Butyl lithium | 5.6 mL, 1.40 equiv | C(CCC)[Li]
reactant | 5-bromobenzo[d][1,3]dioxole | 9.95 mmol, 2 g, 1.00 equiv | BrC1=CC2=C(OCO2)C=C1 | C7H5BrO2
reactant | triisopropyl borate | 14.00 mmol, 1.96 g, 1.40 equiv | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | H2SO4 | 50.00 mmol, 4.9 g, 5.00 equiv | OS(=O)(=O)O | H2O4S
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | Benzo[d][1,3]dioxol-5-ylboronic acid | O1COC2=C1C=CC(=C2)B(O)O | C7H7BO4
